US04103011
To diphenyl ether (16ml) kept at 250°-255° C. was added with stirring diethyl N-[2-(4-acetyl-1-piperazinyl)-4-pyrimidinyl]-aminomethylenemalonate (2.0g). The mixture was gently refluxed for 10 minutes, and then allowed to cool to room temperature. To the mixture was added n-hexane (12ml). The resulting precipitate was collected, washed with ethanol, and recrystallized from ethanol to yield ethyl 2-(4-acetyl-1-piperazinyl)-5,8-dihydro-5-oxopyrido[2,3-d] pyrimidine-6-carboxylate (1.52 g), m.p. 300°-302° C. (decomp.).

reactant | diphenyl ether | 16ml | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
reactant | diethyl N-[2-(4-acetyl-1-piperazinyl)-4-pyrimidinyl]-aminomethylenemalonate | 2.0g | C(C)(=O)N1CCN(CC1)C1=NC=CC(=N1)NC=C(C(=O)OCC)C(=O)OCC | C18H25N5O5
solvent | n-hexane | 12ml | CCCCCC | C6H14
product | ethyl 2-(4-acetyl-1-piperazinyl)-5,8-dihydro-5-oxopyrido[2,3-d] pyrimidine-6-carboxylate | 1.52 g | C(C)(=O)N1CCN(CC1)C=1N=CC2=C(N1)NC=C(C2=O)C(=O)OCC | C16H19N5O4
